US04963566
To a solution of 8-(t-butyldimethylsilyloxymethyl)-4-oxo-3,3-dimethyl-1-ethyl-1,2,3,4-tetrahydroquinoline (1.60 g) in methanol (20 ml) was added sodium borohydride (0.30 g) and the mixture was stirred for 30 minutes. Methanol was distilled off and the resulting residue was extracted with dichloromethane. After drying the extract over anhydrous magnesium sulfate, the solvent was distilled off. The resulting crude 8-(t-butyldimethylsilyloxymethyl)-4-hydroxy-3,3-dimethyl-1-ethyl-1,2,3,4-tetrahydroquinoline was dissolved in dimethyl formamide (15 ml), followed by addition of sodium hydride (60%, 0.24 g), methyl iodide (0.85 g) was added thereto. The mixture was stirred overnight at room temperature. The reaction mixture was extracted with ethyl acetate-toluene and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography [eluent:n-hexane-ethyl acetate (20:1)] to give 8-(t-butyldimethylsilyloxymethyl)- 4-methoxy-3,3-dimethyl-1-ethyl-1,2,3,4-tetrahydroquinoline (1.40 g).

reactant | 8-(t-butyldimethylsilyloxymethyl)-4-oxo-3,3-dimethyl-1-ethyl-1,2,3,4-tetrahydroquinoline | 1.60 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(C(CN(C12)CC)(C)C)=O | C20H33NO2Si
reactant | sodium borohydride | 0.30 g | [BH4-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
product | 8-(t-butyldimethylsilyloxymethyl)- 4-methoxy-3,3-dimethyl-1-ethyl-1,2,3,4-tetrahydroquinoline | 1.40 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(C(CN(C12)CC)(C)C)OC | C21H37NO2Si
